US07772253B2
N-[1-(3,5-Diisopropoxy-benzyl)-piperidin-4-yl]-2,6-dimethyl-terephthalamic acid
In analogy to the procedure described in example 50k), 2,6-dimethyl-N-piperidin-4-yl-terephthalamic acid [prepared from 4-(4-tert-butoxycarbonyl-3,5-dimethyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester and trifluoroacetic acid in dichloromethane in analogy to the procedure described in example 50i)] was reacted with 3,5-diisopropoxy-benzaldehyde [prepared from 3,5-dihydroxy-benzaldehyde and 2-bromopropane, potassium carbonate in DMF at 60° C. in analogy to the procedure described in example 50e)], sodium cyanoborohydride, N-ethyl-diisopropylamine and acetic acid in ethanol at 50° C. to yield the title compound as light yellow solid. MS: 483.3 (MH+).

reactant | 2,6-dimethyl-N-piperidin-4-yl-terephthalamic acid | CC1=C(C(=O)O)C(=CC(=C1)C(=O)NC1CCNCC1)C | C15H20N2O3
reactant | 4-(4-tert-butoxycarbonyl-3,5-dimethyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C(=C1)C)C(=O)OC(C)(C)C)C)=O | C24H36N2O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,5-diisopropoxy-benzaldehyde | C(C)(C)OC=1C=C(C=O)C=C(C1)OC(C)C | C13H18O3
reactant | 3,5-dihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[1-(3,5-Diisopropoxy-benzyl)-piperidin-4-yl]-2,6-dimethyl-terephthalamic acid | C(C)(C)OC=1C=C(CN2CCC(CC2)NC(C2=CC(=C(C(=O)O)C(=C2)C)C)=O)C=C(C1)OC(C)C | C28H38N2O5
